US07732466B2
(a) 3-bromo-4-(pyrrolidin-1-yl-carbonyl)-1-nitro-benzene
Prepared analogously to Example 1a from 2-bromo-4-nitro-benzoic acid and pyrrolidine with TBTU and NMM in DMF.

reactant | 2-bromo-4-nitro-benzoic acid | BrC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | pyrrolidine | N1CCCC1 | C4H9N
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | NMM | CN1CCOCC1 | C5H11NO
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-bromo-4-(pyrrolidin-1-yl-carbonyl)-1-nitro-benzene | BrC=1C=C(C=CC1C(=O)N1CCCC1)[N+](=O)[O-] | C11H11BrN2O3
